US09023865B2
A solution of ethyl 3-(6-(3-benzylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate (38.7 mg, 0.063 mmol) in TFA (1 ml) was charged with triethylsilane (12 μl, 0.075 mmol) and stirred at RT for 2 hr. LCMS shows conversion to the desired mass. Purified via mass-triggered reverse-phase HPLC to provide ethyl 3-(6-(3-benzylureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate (8.4 mg, 0.017 mmol, 27.5% yield) as a white solid (TFA salt). MS ESI calc'd for C19H21N5O3 [M+H]+=368, found 368. 1H NMR (500 MHz, DMSO-d6) δ 9.53 (br s, 1H), 8.85 (s, 1H), 7.85 (s, 1H), 7.51 (s, 1H), 7.32 (m, 4H), 7.25 (m, 1H), 4.36 (d, J=5.9 Hz, 2H), 4.02 (q, J=7.1 Hz, 2H), 3.17 (t, J=7.3 Hz, 2H), 2.79 (t, J=7.3 Hz, 2H), 1.13 (t, J=7.1 Hz, 3H).

reactant | ethyl 3-(6-(3-benzylureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate | 0.063 mmol, 38.7 mg | C(C1=CC=CC=C1)NC(NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CCC(=O)OCC)=O | C38H35N5O3
reactant | triethylsilane | 0.075 mmol, 12 μl | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl 3-(6-(3-benzylureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)propanoate | 0.017 mmol, 8.4 mg, 27.5% yield | C(C1=CC=CC=C1)NC(NC1=CC2=C(C=N1)C(=NN2)CCC(=O)OCC)=O | C19H21N5O3
